US05821246
Using an analogous procedure to that described in Example 1, 1-(4-amino-2-chlorophenyl)-1-(4-pyridyl)methanol was reacted with 4-chloro-6,7-dimethoxyquinazoline hydrochloride to give 4-{3-chloro-4-[1-hydroxy-1-(4-pyridyl)methyl]anilino}-6,7-dimethoxyquinazoline dihydrochloride salt in 12% yield;

reactant | 1-(4-amino-2-chlorophenyl)-1-(4-pyridyl)methanol | NC1=CC(=C(C=C1)C(O)C1=CC=NC=C1)Cl | C12H11ClN2O
reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
product | 4-{3-chloro-4-[1-hydroxy-1-(4-pyridyl)methyl]anilino}-6,7-dimethoxyquinazoline dihydrochloride salt | 12% yield | Cl.Cl.ClC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC1C(C1=CC=NC=C1)O | InChI=1S/C22H19ClN4O3.2ClH/c1-29-19-10-16-18(11-20(19)30-2)25-12-26-22(16)27-14-3-4-15(17(23)9-14)21(28)13-5-7-24-8-6-13;;/h3-12,21,28H,1-2H3,(H,25,26,27);2*1H
